US08383657B2
N-[(2Z)-3-(3,5-dichlorophenyl)-5-methyl-1,3-thiazol-2(3H)-ylidene]-2,2-dimethylpropanamide
In a 4 mL vial charged with a stir bar, 2,2-dimethyl-N-(5-methyl-1,3-thiazol-2-yl)propanamide (71 mg, 0.35 mmol) was added, followed by copper(I) trifluoromethanesulfonate benzene complex (35 mg, 0.07 mmol), 5-chloro-1,10-phenanthroline (30 mg, 0.14 mmol) and cesium carbonate (126 mg, 0.39 mmol). A loose cap with septum was placed on the vial and the vial was placed under vacuum in a vacuum oven for 30 minutes. The solid mixture was purged with nitrogen gas a couple of times. Then 1,3-dichloro-5-iodobenzene (115 mg, 0.42 mmol) dissolved in 1-methyl-2-pyrrolidinone (1.0 mL) was added to the solid mixture. The vial was capped and placed on a heater/stirrer and heated to 120° C. overnight. Then a 1 mL solution of concentrated ammonium hydroxide/water (1:2) was added. The reaction was filtered and concentrated to dryness. The residue was purified by reverse phase HPLC (C8, gradient 10-100% acetonitrile/water/0.1% trifluoroacetic acid).

reactant | 2,2-dimethyl-N-(5-methyl-1,3-thiazol-2-yl)propanamide | 0.35 mmol, 71 mg | CC(C(=O)NC=1SC(=CN1)C)(C)C | C9H14N2OS
reactant | 5-chloro-1,10-phenanthroline | 0.14 mmol, 30 mg | ClC1=C2C=CC=NC2=C2N=CC=CC2=C1 | C12H7ClN2
reactant | cesium carbonate | 0.39 mmol, 126 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,3-dichloro-5-iodobenzene | 0.42 mmol, 115 mg | ClC1=CC(=CC(=C1)I)Cl | C6H3Cl2I
reactant | ammonium hydroxide water | [OH-].[NH4+].O
solvent | 1-methyl-2-pyrrolidinone | 1.0 mL | CN1C(CCC1)=O | C5H9NO
product | N-[(2Z)-3-(3,5-dichlorophenyl)-5-methyl-1,3-thiazol-2(3H)-ylidene]-2,2-dimethylpropanamide | ClC=1C=C(C=C(C1)Cl)N1/C(/SC(=C1)C)=N/C(C(C)(C)C)=O | C15H16Cl2N2OS
